US04780545
(b) Production of 4-methoxy-3-pyrrolin-2-on-1-yl acetic acid ethyl ester
4.27 g of 4-methoxy-3-pyrrolin-2-one and 8.30 g of bromoacetic acid ethyl ester were dissolved in 50 ml of dimethylformamide and mixed with 1.41 g of sodium hydride at 0° C., within 20 minutes, in 3 portions, with vigorous stirring and under argon. After 90minutes of reaction time at 0° C., it was neutralized with dilute hydrochloric acid, and the solvent was evaporated off in a vacuum. The residue was taken up in 50 ml of ice water and twice extracted with 50 ml each of methylene chloride. The organic phase was dried over Na2SO4, and evaporated on the rotary evaporator under vacuum. The residue slowly thoroughly recrystallized at room temperature. 8.0 g of product having a melting point of 54° to 56° C. and a content according to GC of 90.8 percent was obtained.

reactant | 4-methoxy-3-pyrrolin-2-one | 4.27 g | COC1=CC(NC1)=O | C5H7NO2
reactant | bromoacetic acid ethyl ester | 8.30 g | C(C)OC(CBr)=O | C4H7BrO2
reactant | sodium hydride | 1.41 g | [H-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-methoxy-3-pyrrolin-2-on-1-yl acetic acid ethyl ester | C(C)OC(CN1C(C=C(C1)OC)=O)=O | C9H13NO4
